US06194458B1
1-(2-methoxyphenyl)-1-oxo-2-aza-4-phenylbutane
To a solution of 0.5 gm of phenethylamine (4.12 mmol) in 5 mL of dichloromethane and 0.978 mL of pyridine (8.2 mmol) at 0° C. was added 1.39 gm of 2-methoxybenzoyl chloride (1.14 mL, 8.2 mmol). The reaction was allowed to warm to room temperature and was stirred for 4 hr. The reaction mixture was concentrated, 5mL of heptane were added and the mixture was evaporated to dryness this being repeated one more time. The residue was purified by HPLC (RCM SepPak, silica 25×100, 3.6% CH3CN, 14.4% tBuOCH3, 82% hexane) to give the title compound.

reactant | phenethylamine | 4.12 mmol, 0.5 gm | C(CC1=CC=CC=C1)N | C8H11N
reactant | pyridine | 8.2 mmol, 0.978 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-methoxybenzoyl chloride | 8.2 mmol, 1.14 mL, 1.39 gm | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(2-methoxyphenyl)-1-oxo-2-aza-4-phenylbutane | COC1=C(C=CC=C1)C(CCCC1=NC=CC=C1)=O | C16H17NO2
